US07022708B2
To a stirred solution of 5-bromo-3-(4-fluoro-benzenesulfonyl)-1H-indole (0.315 g, 0.89 mmole) in tetrahydrofuran (4 mL) was added 1M potassium t-butoxide/THF (1.0 mL, 1.0 mmol). After 10 minutes iodomethane (0.16 g, 1.1 mmole) was added. The reaction mixture was stirred at room temperature overnight and then passed through a pad of silica gel (230–400 mesh) eluting with 50% ethyl acetate/hexane. The eluate was concentrated under reduced pressure to provide a residue that was crystallized from ethanol/hexanes to give 0.3 g of 5-Bromo-3-(4-fluoro-benzenesulfonyl)-1-methyl-1H-indole.

reactant | 5-bromo-3-(4-fluoro-benzenesulfonyl)-1H-indole | 0.89 mmole, 0.315 g | BrC=1C=C2C(=CNC2=CC1)S(=O)(=O)C1=CC=C(C=C1)F | C14H9BrFNO2S
reactant | potassium t-butoxide THF | 1.0 mmol, 1M, 1.0 mL | CC(C)([O-])C.[K+].C1CCOC1
reactant | iodomethane | 1.1 mmole, 0.16 g | IC | CH3I
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 5-Bromo-3-(4-fluoro-benzenesulfonyl)-1-methyl-1H-indole | 0.3 g | BrC=1C=C2C(=CN(C2=CC1)C)S(=O)(=O)C1=CC=C(C=C1)F | C15H11BrFNO2S
